US07951963B2
To 340 mL of tetrahydrofuran was suspended 50.2 g of sodium borohydride, to which were dropped tetrahydrofuran (340 mL) solution of 170 g of (1-benzothiophen-5-yl)acetic acid, and 65.1 g of sulfuric acid successively, which was then stirred at room temperature for 2.5 hours. To this reaction mixture was dropwise added 85 mL of acetone, which was then stirred for 30 minutes. Thereto were added 510 mL of water and 680 mL of toluene. The organic layer was separated, to which was added 510 mL of water, and the pH was adjusted to 12 with 48 mL of 20% (w/w) sodium hydroxide aqueous solution. The organic layer was separated, and washed with water, followed by distilling off the solvent. Thereto were added cyclohexane and toluene. The precipitate was collected by filtration to provide 135 g of 2-(1-benzothiophen-5-yl)ethanol as white solid form.

reactant | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 50.2 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 340 mL | O1CCCC1 | C4H8O
reactant | (1-benzothiophen-5-yl)acetic acid | 170 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
reactant | sulfuric acid | 65.1 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 680 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 510 mL | O | H2O
solvent | acetone | 85 mL | CC(=O)C | C3H6O
product | 2-(1-benzothiophen-5-yl)ethanol | 135 g | S1C=CC2=C1C=CC(=C2)CCO | C10H10OS
